Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.90421016008
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]=[C:7]([H:8])[H:9])[O:10][H:11]>>[C:5](#[C:6][C:7]([H:8])[H:9])[O:10][H:11].[H:1][C:2]#[C:3][H:4],1.40496310833
[H:1][C:2]1([H:3])[O:4][C:5]([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[O:13]1>>[H:1][C:2]([H:3])[O:4][C:5]([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])=[O:13],-1.23122831992
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20].[H:7],4.37651198407
[H:1][O:2][C:3]/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3][C:4](=[C:5])[C:10]([H:11])([H:12])[H:13],3.67046088174
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.6749295322
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6],1.0156369875
[H:5].[O:1]=[C:2]([H:3])[C:4][C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.92902497514
[C:2][C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:7]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-0.714173111161
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],2.19136643155
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7](=[O:8])[H:9].[H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([O:8])([H:9])[H:10],-0.445832344045
[C:3][C:4]([H:5])([H:6])[O:7][C:8][O:9][H:10].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][O:9][H:10],-10.593702112699999
[C:7]([H:8])#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[C:4]#[C:5][H:6]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-1.2709602600799998
[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][H:5],0.20446808534
[H:1][C:2]#[C:3][O:4][H:5]>>[C:2]#[C:3][O:4][H:5].[H:1],5.628023430040001
[H:10].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-4.91986406457
[H:1][O:2][C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4]=[C:6]([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:5],3.17556558061
[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.4048655677000002
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7][H:8])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:9]>>[H:1][O:2][C:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.978780030369999
[H:12].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-4.87289475259
[H:1][C:2]([H:3])=[C:4][C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6],1.52614760997
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[O:1],4.09525076922
[H:1][C:2]#[C:3][C:4](=[O:5])[C:7]([H:8])[O:9][H:10].[H:6]>>[H:1][C:2]#[C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[O:9][H:10],-3.51261785296
[C:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.14030247287
[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-0.904358105381
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[H:9],4.02621258025
[C:4]([H:5])[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-8.11398040499
